US04468399
A reaction mixture was prepared from 203 ml. each of triethylamine and pyridine plus 63 g. of morpholinoacetonitrile. Hydrogen sulfide was bubbled through the heated, stirred reaction mixture for about 2.5 hours. Stirring was continued overnight at ambient temperature. The next day, H2S was passed through the heated, stirred reaction mixture for an additional 1.5 hours. At this point, the solvents were evaporated in vacuo and the residue triturated with ether. The ether was discarded and the residue dissolved in ethanol. Crystalline morpholinothioacetamide formed in the above reaction precipitated and was separated by filtration. Treatment of the filtrate with alcoholic hydrogen chloride yielded morpholinothioacetamide hydrochloride melting in the range 64°-80° C. See also J.A.C.S., 72, 2804 (1950).

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | morpholinoacetonitrile | O1CCN(CC1)CC#N | C6H10N2O
reactant | H2S | S | H2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | morpholinothioacetamide | O1CCN(CC1)CC(=S)N | C6H12N2OS
